*****************************************************************
* NXP PSMN7R6-100BSE
*
* Polarity N-Channel
* Ratings 100V/7.600000E-003OHMS/75A
*
* Date Created Mon Dec 10 07:25:15 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R6-100BSE DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507775381211
LS SOURCE 8 7.53051739963055e-09
RLS2 SOURCE 8 18.9262545123276
RLS1 8 7 0.00130174197340349

RDS 7 4 50000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00402357616301715 TC=0.0170448934442295,8.31762501502302E-06
RBD 9 4 0.00009 TC=0.0140448934442295,8.31762501502302E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 6.01521864952227e-09
RG 1 2 0.823720585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}

+ 0	6819.5828
+ 0.1	2914.85
+ 0.2	2911.3172
+ 0.5	2321.484
+ 1	1890.392
+ 2	1394.3664
+ 3	1143.4524
+ 4	997.10992
+ 5	896.26252
+ 6	821.50888
+ 8	716.67752
+ 10	647.31188
+ 12	594.9766
+ 15	536.56564
+ 16	519.90272
+ 20	469.50708
+ 25	423.73376
+ 30	389.73976
+ 50	308.81716



.MODEL MINT NMOS(Vto=3.90948038977326 Kp=1.181180e+002 Nfs=940000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=115 Ibv=2.500000E-004 Rs=1E-6 Is=3.59347824484189e-12
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=2.3433632e-09 Tt=6.9e-08)

.ENDS

